Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
symptomatic fibroid uterus
 
Major Surgical or Invasive Procedure:
EUA, TOTAL ABDOMINAL HYSTERECTOMY, BILATERAL SALPINGECTOMIES

 
History of Present Illness:
Cc:
___ fibroid uterus
LMP ___

HPI:
Ms. ___ is a ___ gravida 0 with worsening
symptomatic fibroid uterus.  She has heavy vaginal bleeding
during menses only.  She denies intermenstrual bleeding or
postcoital bleeding however, she endorses significant
dysmenorrhea and dyspareunia.  Patient states that she does not
desire future childbearing.  She is a lesbian woman and is not
interested in IUI or IVF to achieve pregnancy.

Patient would entertain multiple myomectomy if I could guarantee
that she would not have recurrence of uterine fibroids requiring
treatment.  Of course I let her know that I could not guarantee
that.

On ___ at the ___ she had a pelvic
ultrasound which showed an enlarged uterus measuring 18.2 x 7.5 
x
18.4 cm.  The endometrial stripe measured 8 mm.  There was a 
13.7
x 7.0 x 14.8 cm subserosal fibroid in the uterine body and 
fundus
causing a mass-effect on the superior aspect of the uterus and
extending up into the abdomen.  Small intramural fibroids also
noted.  The right ovary measured 3.9 x 3.2 x 3.8 cm.  The left
ovary was less clearly visualized but appeared to measure 4.9 x
4.8 x 3.6 cm.  There was small amount of free fluid in the
cul-de-sac.

Labs in ___ were reviewed which included normal CBC, Chem-7 and
TSH, etc. Labs performed at ___ included 
normal
liver function tests

 
Past Medical History:
OB/GYN history:
Menarche at 11, cycles monthly, bleeds heavily for 4 days
Lesbian and is currently sexually active
She has been exposed to sperm in the past and in ___ had
gonorrhea and chlamydia
She denies pelvic inflammatory disease
She has never had a pregnancy

Medical history:
ASTHMA                                                          
BIPOLAR AFFECTIVE DISORDER                                      
HEMOGLOBIN C TRAIT                                              
HIDRADENITIS                                                    
IRON DEFICIENCY                                                 
CONSTIPATION                                                    
FIBROIDS                                                        
ANXIETY                                                         

Surgical History:

None

    
                                                
Medications (Last Review: ___ by ___,
MD):
Active Medication list as of ___:
 
Medications - Prescription
CLINDAMYCIN PHOSPHATE - clindamycin phosphate 1 % topical
solution. apply to affected area twice a day
CYCLOBENZAPRINE - cyclobenzaprine 10 mg tablet. 1 tablet(s) by
mouth Daily -  (Prescribed by Other Provider)
LINACLOTIDE [LINZESS] - Linzess 145 mcg capsule. 1 capsule(s) by
mouth Once daily with meals
NAPROXEN - naproxen 500 mg tablet. 1 tablet(s) by mouth Daily, 
as
needed -  (Prescribed by Other Provider)
OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. 1
capsule(s) by mouth once a day on an empty stomach, half hour
before eating
SERTRALINE - sertraline 50 mg tablet. 1 tablet(s) by mouth Daily
-  (Prescribed by Other Provider)

Allergies:
No known drug allergies

 
Social History:
Social History:
Country of Origin:  ___                                         
Marital status:     Single                                      
Children:           No                                          
Lives with:         Alone                                       
Lives in:           Rented room                                 
Work: ___
Multiple partners:  ___                                      
___ activity:    Present                                     
Sexual orientation: Female                                      
Sexual Abuse:       Past                                        
Domestic violence:  Denies                                      
Contraception:      None                                        
Tobacco use:        Former smoker                               
     Year Quit:     ___ months without smoking                


     Years Since    0                                           
     Quit:                                                      
Alcohol use:        Present, during holidays only                


drinks per week:    <1                                           


Recreational drugs  smokes MJ every day to help with pain   
 
Family History:
Family History (Last Verified ___ by ___  ___, MD):
    
Father   ___ ___  DIABETES MELLITUS                         
                      HYPERTENSION                              
                      MILD HEART ATTACK                         

Mother   Living       KNEE SURGERY                              

Sister   Living                                                 

Brother  Living                                                 

Comments: Grandmother had lung cancer. One aunt with bone cancer
          or breast cancer.  No heart disease.     
 
Physical Exam:
Discharge physical exam
Vitals: stable and within normal limits
Gen: no acute distress; alert and oriented to person, place, and 
date
CV: regular rate and rhythm; no murmurs, rubs, or gallops
Resp: no acute respiratory distress, clear to auscultation 
bilaterally
Abd: soft, appropriately tender, no rebound/guarding; incision 
clean, dry, intact
Ext: no tenderness to palpation
 
Pertinent Results:
N/A
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing total abdominal hysterectomy and bilateral 
salpingectomy for symptomatic fibroid uterus.  Please see the 
operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with a Dilaudid PCA and 
scheduled IV toradol/Tylenol . On post-opeative day 1, she 
spiked a temperature to 100.4 in the setting of likely 
atelectasis. She defervesced spontaneously with coughing, and 
remained afebrile for the remainder of her admission.

On post-operative day 2, her urine output was adequate, so her 
foley was removed, and she voided spontaneously. Her diet was 
advanced without difficulty, and she was transitioned to PO 
oxycodone/ibuprofen/acetaminophen.

By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
flexeril prn, linzess, naproxen, omeprazole 20mg daily, 
sertraline 50mh daily
All: NKDA
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
Do not take more than 4000 mg per day. 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
Hold for loose bowel movements. 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
Take with food. 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
Do not drive or drink alcohol while taking this medication. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
5.  Omeprazole 20 mg PO DAILY  
6.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
symptomatic fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Since you have steri-strips, leave them on. They will fall off 
on their own or be removed during your followup visit.
* If you have staples, they will be removed at your follow-up 
visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___